US07816349B2
(R)-3-(4-Benzyloxy-2,6-dichloro-benzyl)-trans-1-(4-triisopropylsilanyloxy-cyclohexyl)-pyrrolidin-2-one
Mix (R)-3-(4-Benzyloxy-2,6-dichloro-benzyl)-trans-1-(4-hydroxy-cyclohexyl)-pyrrolidin-2-one (Preparation 16) (1.37 g, 3.07 mmol) and imidazole (0.527 g, 68.08 mmol) in 10 ml of dry DMF. Add triisopropylsilylchloride (0.81 ml, 3.07 mmol) dropwise and stir at room temperature for 5 hours. Quench with 1N HCl and extract with ethyl acetate. Wash the extract with NaHCO3 and brine. Dry over magnesium sulfate, filter, and concentrate. After flash column chromatography, receive 1.83 g (99%) of the title compound: Mass spectrum (apci) m/z=604 (M+H).

reactant | (R)-3-(4-Benzyloxy-2,6-dichloro-benzyl)-trans-1-(4-hydroxy-cyclohexyl)-pyrrolidin-2-one | 3.07 mmol, 1.37 g | C(C1=CC=CC=C1)OC1=CC(=C(C[C@H]2C(N(CC2)[C@@H]2CC[C@H](CC2)O)=O)C(=C1)Cl)Cl | C24H27Cl2NO3
reactant | imidazole | 68.08 mmol, 0.527 g | N1C=NC=C1 | C3H4N2
reactant | triisopropylsilylchloride | 3.07 mmol, 0.81 ml | C(C)(C)[Si](C(C)C)(C(C)C)Cl | C9H21ClSi
solvent | DMF | 10 ml | CN(C)C=O | C3H7NO
product | (R)-3-(4-Benzyloxy-2,6-dichloro-benzyl)-trans-1-(4-triisopropylsilanyloxy-cyclohexyl)-pyrrolidin-2-one | C(C1=CC=CC=C1)OC1=CC(=C(C[C@H]2C(N(CC2)[C@@H]2CC[C@H](CC2)O[Si](C(C)C)(C(C)C)C(C)C)=O)C(=C1)Cl)Cl | C33H47Cl2NO3Si
